US08735417B2
A microwave vial containing N-[3-(1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]acetamide (50 mg, 0.132 mmol) in THF (659 μL) was cooled to −78° C. in a dry ice-acetone bath. To the solution was added a stock solution of LDA prepared from the addition of n-BuLi (3.47 μL, 1.52 M, 0.527 mmol) over diisopropylamine (54.7 mg, 0.540) in THF at −78° C. After stirring the suspension for 20 minutes, a solution of NBS (94 mg, 0.527 mmol) in THF (1 mL) was added. The resulting yellow suspension was stirred at −78° C. for 1 h, after which the bath was removed. Once at room temperature, the reaction was treated with sat. NaHCO3(aq) and the phases were separated. The aqueous was extracted 3 times with ethyl acetate. Organic layers were combined, washed with brine, dried with MgSO4, filtered and concentrated under reduced pressure. The residual solid was purified by flash chromatography to yield N-[3-(2-bromo-1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]-acetamide as a beige powder (29 mg, 0.063 nmol, 48%).

reactant | N-[3-(1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]acetamide | 0.132 mmol, 50 mg | S1C=NC=C1C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)NC(C)=O | C16H12F3N5OS
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-BuLi | 0.527 mmol, 1.52 M, 3.47 μL | [Li]CCCC
reactant | diisopropylamine | 54.7 mg | C(C)(C)NC(C)C | C6H15N
reactant | NBS | 0.527 mmol, 94 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 659 μL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-[3-(2-bromo-1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]-acetamide | 0.063 nmol, 29 mg, 48% | BrC=1SC(=CN1)C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)NC(C)=O | C16H11BrF3N5OS
